US06787559B2
To a solution of N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide (1.25 g, 2.19 mmol) in argon deoxygenated 80% ethanol-tetrahydrofuran (100 mL) was added 10% Pd-C (0.7 g), and the resulting mixture was hydrogenated at atmospheric pressure for 60 min. The reaction mixture was degassed under argon and the slurry was filtered over Celite. The Celite cake was washed with ample 80% ethanol-methylene chloride and the filtrate was concentrated to almost dryness. The mixture was dissolved in 4 mL of ethyl acetate which was added slowly dropwise to 100 mL of vigorously stirring hexanes. The slurry was filtered to afford N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide (0.67 g) as a white solid.

reactant | N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide | 2.19 mmol, 1.25 g | C(C1=CC=CC=C1)ONC([C@@H]([C@H](C)O)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C29H34N2O8S
catalyst | Pd-C | 0.7 g | [Pd] | Pd
solvent | ethanol tetrahydrofuran | 100 mL | C(C)O.O1CCCC1
product | N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3(S)-hydroxybutyramide | 0.67 g | ONC([C@@H]([C@H](C)O)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C22H28N2O8S
